US09403818B2
Preparation of ethyl 8-(4-amino-3-fluoro-phenyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Ethyl 8-(4-amino-3-fluoro-phenyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from ethyl 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (149 mg, 0.46 mmol) and 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-aniline (134 mg, 0.58 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (18 mg, 10%).

reactant | ethyl 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.46 mmol, 149 mg | ClC=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O)F | C16H15ClFNO3
reactant | 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-aniline | 0.58 mmol, 134 mg | FC1=C(N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H17BFNO2
product | ethyl 8-(4-amino-3-fluoro-phenyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 18 mg, 10% | NC1=C(C=C(C=C1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O)F)F | C22H20F2N2O3
